US07648966B2
Preparation of 1-trimethylsilyl-2,4-dimethyl phenol
To a stirred solution of 2,4-dimethyl phenol (5.47 g, 44.8 mmol) in dry dichloromethane (120 ml) at 0° C. under nitrogen was added triethylamine (1.1 eq., 4.99 g, 6.9 ml) followed by the slow addition of trimethyl silyl chloride (1.05 eq., 5.11 g, 6.00 ml). The reaction was monitored by thin layer chromatography (10% ethyl acetate in 60-80 light petroleum) and upon completion (˜2 hr) water (50 ml) was added. The organic layer was washed with water (2×50 ml), dried (Na2SO4), filtered and the solvent removed to give the title compound (8.13 g, 93%).

reactant | 2,4-dimethyl phenol | 44.8 mmol, 5.47 g | CC1=C(C=CC(=C1)C)O | C8H10O
reactant | triethylamine | 6.9 ml, 4.99 g, 1.1 eq. | C(C)N(CC)CC | C6H15N
reactant | trimethyl silyl chloride | 6.00 ml, 5.11 g, 1.05 eq. | C[Si](C)(C)Cl | C3H9ClSi
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | 1-trimethylsilyl-2,4-dimethyl phenol | 8.13 g, 93% | C[Si](C1(C(C=C(C=C1)C)C)O)(C)C | C11H20OSi
